US05637613
1-(1,1-Dimethylethyl) 16-ethyl 3-[[(1,1-dimethylethoxy)carbonyl]amino]-15-phenylmethoxy-14-oxo-2,4,13-triazahexadec-2-enedioate
2.6 g (10.9.10-3 mol) of ethyl 2-phenylmethoxypropanedioate are dissolved in 50 ml of dichloromethane and the mixture is cooled to 0° C. 4.34 g (22.10-3 mol) of N,N'-dicyclohexylcarbodiimide and 0.57 g (4.10-3 mol) of 1-hydroxybenzotriazole are added, the mixture is stirred for 0.5 hour, a solution of 4.21 g (10.9. 10-3 mol) of bis(1,1-dimethylethyl) [[(8-aminooctyl)imino]methylene]biscarbamate in 15 ml of dichloromethane is then added and the mixture is stirred at room temperature for 48 hours. The reaction medium is concentrated under reduced pressure and the residue is then purified by chromatography on silica using a methylcyclohexane/ethyl acetate mixture (7/3) as the eluent to give 2.7 g (yield=40.8%) of the expected product in the form of a pale yellow oil.

reactant | ethyl 2-phenylmethoxypropanedioate | 2.6 g | C1(=CC=CC=C1)COC(C(=O)OCC)C(=O)[O-]
reactant | N,N'-dicyclohexylcarbodiimide | 22.10-3 mol, 4.34 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 4.10-3 mol, 0.57 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | bis(1,1-dimethylethyl) [[(8-aminooctyl)imino]methylene]biscarbamate | 10-3 mol, 4.21 g | NCCCCCCCCN=C(NC(OC(C)(C)C)=O)NC(OC(C)(C)C)=O | C19H38N4O4
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1-(1,1-Dimethylethyl) 16-ethyl 3-[[(1,1-dimethylethoxy)carbonyl]amino]-15-phenylmethoxy-14-oxo-2,4,13-triazahexadec-2-enedioate | 2.7 g, yield=40.8% | CC(C)(OC(=O)NC(=NC(=O)OC(C)(C)C)NCCCCCCCCNC(C(C(=O)OCC)OCC1=CC=CC=C1)=O)C | C31H50N4O8
